US04053600
To a solution of 20.8 g. of 2,4-dichloro-6,7-dimethoxyquinazoline in 400 ml. of methylene chloride is added dropwise 20 g. of hydrazine while maintaining the temperature below 30° C. with cooling. The resulting mixture was stirred for 45 minutes and then allowed to stand overnight at a temperature of 0° C. The mixture is then filtered and the solids washed first with water and then with methanol. The resulting solid material is then taken up in ice-water and stirred for 20 minutes. The mixture is then filtered and the resulting solid is recrystallized from methanol/methylene chloride to obtain 6,7-dimethoxy-2-chloro-4-hydrazino-quinazoline, m.p. 312°-315° C. (decomp.).

reactant | 2,4-dichloro-6,7-dimethoxyquinazoline | ClC1=NC2=CC(=C(C=C2C(=N1)Cl)OC)OC | C10H8Cl2N2O2
reactant | hydrazine | NN | H4N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6,7-dimethoxy-2-chloro-4-hydrazino-quinazoline | COC=1C=C2C(=NC(=NC2=CC1OC)Cl)NN | C10H11ClN4O2
